US05721234
Preparation of N-(7-azido-4-bromo-2-nitro-5,6,7,8-tetrahydronaphthalen-1-yl) acetamide
A solution of N-(7-azido-4-bromo-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide (1.5 g) was cooled in an ice bath and treated with fuming nitric acid (2 mL). After stirring for 2 h the solvent was removed by rotoevaporation and water was added to the residue to give a solid. The product was collected by filtration and dried (1.1 g, 81% yield).

reactant | N-(7-azido-4-bromo-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide | 1.5 g | N(=[N+]=[N-])C1CCC=2C(=CC=C(C2C1)NC(C)=O)Br | C12H13BrN4O
reactant | nitric acid | 2 mL | [N+](=O)(O)[O-] | HNO3
product | N-(7-azido-4-bromo-2-nitro-5,6,7,8-tetrahydronaphthalen-1-yl) acetamide | 81% yield | N(=[N+]=[N-])C1CCC=2C(=CC(=C(C2C1)NC(C)=O)[N+](=O)[O-])Br | C12H12BrN5O3
